US04291168
Sodium (629 mg., 27.3 mmol) is added to 50 ml. of absolute ethanol under a nitrogen atmosphere. After the sodium dissolves, 6,7-dichloro-5-hydroxy-2-phenyl-1-indanone (7.35 g., 25.1 mmol), and 75 ml. of additional absolute ethanol are added followed by 3.1 ml. of ethyl bromoacetate (28.1 mmol). The mixture is stirred at room temperature for 1 to 2 hrs., refluxed for 5-16 hrs. and then poured into a dilute acid-ether mixture. The crude reaction product collected and crystallized from 1:1 ethanol-water with activated charcoal provides a 70% yield of ethyl (6,7-dichloro-1-oxo-2-phenyl-5-indanyloxy)acetate, m.p. 113.5°-115°.

reactant | Sodium | 27.3 mmol, 629 mg | [Na] | Na
reactant | 6,7-dichloro-5-hydroxy-2-phenyl-1-indanone | 25.1 mmol, 7.35 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1=CC=CC=C1)O | C15H10Cl2O2
reactant | ethyl bromoacetate | 28.1 mmol | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | ethyl (6,7-dichloro-1-oxo-2-phenyl-5-indanyloxy)acetate | 70% yield | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1=CC=CC=C1)OCC(=O)OCC | C19H16Cl2O4
